US09287504B2
3,7-Bis-(4-bromo-phenyl)-1H,5H-pyrrolo[2,3-f]indole-2,6-dione (1.3)
3,7-Bis-(4-bromo-phenyl)-5,7-dihydro-1H,3H-pyrrolo[2,3-f]indole-2,6-dione (7.250 g, 14.55 mmol) (1.2) was dissolved into acetic acid (215 cm3), chloranil (7.157 g, 29.11 mmol) is added and the reaction mixture heated to 50° C. for 16 hours. After cooling down, the resulting precipitate is filtered and washed with acetic acid. The recovered solid is purified by trituration with nitrobenzene (120 cm3) at 200° C. followed by trituration with diethyl ether (100 cm3) to obtain the pure product (4.512 g, Yield: 63%). NMR (1H, 300 MHz, DMSO): δ 10.37 (br, 2H), 7.71 (d, J=8.7 Hz, 4H), 7.61 (d, J=8.7 Hz, 4H), 6.34 (s, 2H).

reactant | 3,7-Bis-(4-bromo-phenyl)-5,7-dihydro-1H,3H-pyrrolo[2,3-f]indole-2,6-dione | 14.55 mmol, 7.250 g | BrC1=CC=C(C=C1)C1C(NC2=CC=3C(C(NC3C=C21)=O)C2=CC=C(C=C2)Br)=O | C22H14Br2N2O2
reactant | chloranil | 29.11 mmol, 7.157 g | C1(=C(C(=O)C(=C(C1=O)Cl)Cl)Cl)Cl | C6Cl4O2
solvent | acetic acid | 215 cm3 | C(C)(=O)O | C2H4O2
product | 3,7-Bis-(4-bromo-phenyl)-1H,5H-pyrrolo[2,3-f]indole-2,6-dione | 4.512 g, Yield: 63% | BrC1=CC=C(C=C1)C=1C(NC2=CC3=C(C(NC3=CC21)=O)C2=CC=C(C=C2)Br)=O | C22H12Br2N2O2
